US04252803
(i) 3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1-(phenylmethyl)-1H-indole-5-carbonitrile
Sodium hydride (0.16 g) was added to a solution of 3-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-carbonitrile (2.0 g) in dry dimethylformamide (40 ml) under nitrogen. After 0.5 hour. benzyl chloride was added and after a further 2 hours the mixture was diluted with water (150 ml) and extracted with ethyl acetate (3×40 ml). Evaporation of the washed (H2O) and dried (MgSO4) extract gave a red oil which was triturated with ether and then crystallised from ethanol to give the title compound as yellow microcrystals (1.2 g) m.p. 182°-4° C. T.L.C. Silica, ether Rf 0.45.

reactant | Sodium hydride | 0.16 g | [H-].[Na+]
reactant | 3-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-carbonitrile | 2.0 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)C#N | C19H13N3O2
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | 150 ml | O | H2O
product | 3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1-(phenylmethyl)-1H-indole-5-carbonitrile | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CN(C2=CC=C(C=C12)C#N)CC1=CC=CC=C1 | C26H19N3O2
